US04663344
Step C: Preparation of Methyl 2-mercapto-5-trifluoromethylbenzoate
A solution of methyl 2-(p-methoxybenzylthio)-5-trifluoromethylbenzoate (1.0 g, 2.8 mmol) and anisole (335 μl) in trifluoroacetic acid (10 ml) was stirred at reflux temperature for 20 minutes under a nitrogen atmosphere. The mixture was evaporated under diminished pressure and co-evaporated several times with toluene. The mercaptan was used without further purification in the subsequent step below. NMR (CDCl3, 60 MHz): δ3.88 (s, CO2CH3) p.p.m.

reactant | methyl 2-(p-methoxybenzylthio)-5-trifluoromethylbenzoate | 2.8 mmol, 1.0 g | COC1=CC=C(CSC2=C(C(=O)OC)C=C(C=C2)C(F)(F)F)C=C1 | C17H15F3O3S
reactant | anisole | 335 μl | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | Methyl 2-mercapto-5-trifluoromethylbenzoate | SC1=C(C(=O)OC)C=C(C=C1)C(F)(F)F | C9H7F3O2S
